US04243681
The epichlorohydrin derivative of 2-methyl-4-(methylthio)phenol (3.14 g., 0.015 mole) is reacted with n-octylamine (1.93 g. 0.015 mole) according to the procedure of Example 1. Concentrating the reaction mixture and crystallization of residual material from ethylacetate-hexane affords a 19% yield of analytically pure 1-[2-methyl-4-(methylthio)phenoxy]-3-(octylamino)-2-propanol, m.p. 59°-60° (corr.).

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 2-methyl-4-(methylthio)phenol | 0.015 mole, 3.14 g | CC1=C(C=CC(=C1)SC)O | C8H10OS
reactant | n-octylamine | 0.015 mole, 1.93 g | C(CCCCCCC)N | C8H19N
product | 1-[2-methyl-4-(methylthio)phenoxy]-3-(octylamino)-2-propanol | 19% yield | CC1=C(OCC(CNCCCCCCCC)O)C=CC(=C1)SC | C19H33NO2S
